US09427475B2
Step C: 4,4′-azanediylbis(butan-1-ol)
To a solution of bis(4-(benzyloxy)butyl)amine (300 mg, 0.879 mmol) was in a mixed solvent of Dioxane (5 ml)/Water (5 mL), was added PdOH2 (30.8 mg, 0.044 mmol). The reaction was stirred under H2 at 40 PSI for 18 h. LC-MS showed no starting material and formation of desired product. The mixture was filtered through a pad of celite, washed with dioxane/water (10 mL, 1/1). The filtrate was concentrated and dried over high vacuum pump to give the titled compound (130 mg, 0.806 mmol, 92% yield). LC-MS Method A: m/e=162.01 [M+1]; Rt=0.18 min.

reactant | bis(4-(benzyloxy)butyl)amine | 0.879 mmol, 300 mg | C(C1=CC=CC=C1)OCCCCNCCCCOCC1=CC=CC=C1 | C22H31NO2
reactant | Dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | Water | 5 mL | O | H2O
product | 4,4′-azanediylbis(butan-1-ol) | N(CCCCO)CCCCO | C8H19NO2
